Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keppra / lisinopril
 
Attending: ___
 
Chief Complaint:
Chest pain, abnormal EKG
 
Major Surgical or Invasive Procedure:
Diagnostic cardiac catheterization w/ angiography ___
Transthoracic echocardiography ___

 
History of Present Illness:
___ M w/ hx of HTN, HLD, and prediabetes presenting for chest 
pain. Patient had pharyngitis for past 3d being treated with 
penicillin. Patient reports he went to a family friend's funeral 
on ___ when he developed symptoms of sore throat, with 
a fever up to ___. He stated he had these symptoms for several 
days when he presented to a doctor in ___ and received 
penicillin for a presumed diagnosis of strep pharyngitis based 
on physical exam (rapid strep reportedly negative per patient, 
he is unsure about the cx results). Three days after the onset 
of sore throat patient began to experience chest pain "right 
over the ___ symbol," nonpositional in nature and not 
radiating elsewhere. He stated that when he pressed on the 
position of the pain, it became worse. He thought he had been 
told this meant the pain was related to gas, so he deferred 
going to the ED for several days.
Patient went to OSH (___) earlier today complaining of 
midepigastric, nonradiating ___ chest pain w/ no associated SOB 
or diaphoresis. Patient had findings on EKG that showed EKG ST 
elevation in AVL and Lead ___epression in lead 3. Beside 
ultrasound was performed which did not demonstrate pericardial 
effusion. CXR showed no acute abnormalities. Was transferred 
because ___ did not have available cardiac echocardiography. 
Patient received asa 324 mg. As patient was being prepared for 
transport his trop-I came back at 10, and patient was 
transferred for additional indication of activating cath lab 
protocol.
 
Patient presented to ___ and was claiming his chest pain had 
resolved. Vitals were 99.6 110 148/85 18 97% RA. Exam was 
without significant abnormality. Na 137, K3.2, Cl94, bicarb 27, 
BUN 16, Cr 1.1, glucose 129, WBC 10.5, H/H 15.4/43.7, plt 323, 
trop 1.52 -> 1.03, CK-MB 52 -> 35, MBI 6.7->5.0. Lactate 1.5. 
EKG demonstrated sinus tachycardia, but still faint sub-2 mm ST 
segment elevation in 1 and AVL, with low voltage in the lateral 
precordial leads. Patient was continued on heparin drip, dosed 
with ticagrelor 180 mg. Code STEMI was activated and patient was 
transported to the cath lab. Cath was performed with R radial 
access and was reportedly without significant coronary 
abnormality.
Patient reports he is comfortable after transfer to the floor. 
Is inquiring whether his heart muscle will recover.
REVIEW OF SYSTEMS:  
Patient reports occasional fluid in his ankles because he 
"rolled his ankles a lot," otherwise chest pain is markedly 
improved since his presentation at ___. Review of systems 
also notable for a chronic cough. States he was unable to 
tolerate ACE inhibitors.
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, edema, 
palpitations, syncope, or presyncope. 
On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. All of the other review of systems were 
negative. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
HTN, HLD, Obesity, and prediabetes 
History of Chest pain NOS, had ETT that demonstrated decreased 
exercise tolerance 25% below normal for sedentary man of his 
age. Exercise terminated at 9 minutes at level of ___ METS ___ 
fatigue, no EKG changes.
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Balantis Xerotica Oblit, received circumcision
Epilepsy NOS - last seizure in ___, total of 5 seizures, Keppra 
allergy.
Recurrent Epistaxis
GERD
Fatty Liver
Hep A
Urethral stricture
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  Reports both his father and mother are 
smokers. Father has known angina and CAD (no known MI's), Mother 
with some ? adrenal or liver tumor.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T99.2 BP110/74 HR92 RR19 O2 SAT 96RA  
GENERAL: Obese man, appears stated age. NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma. 
Enlarged tonsils without marked pharyngeal or uvular erythema or 
exudate.
NECK: Supple with JVP 3 cm above clavicle at 45 degrees 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAM:
VS: 97.7 126/58 85 18 97RA
GENERAL: Obese man, appears stated age. NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma. 
Enlarged tonsils without marked pharyngeal or uvular erythema or 
exudate.
NECK: Supple with JVP 3 cm above clavicle at 45 degrees 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
ADMISSION LABS:
___ 06:05AM BLOOD WBC-10.5* RBC-4.89 Hgb-15.4 Hct-43.7 
MCV-89 MCH-31.5 MCHC-35.2 RDW-12.8 RDWSD-41.9 Plt ___
___ 06:05AM BLOOD Neuts-64 Bands-0 ___ Monos-6 Eos-7 
Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-6.72* AbsLymp-2.42 
AbsMono-0.63 AbsEos-0.74* AbsBaso-0.00*
___ 06:05AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ 
Burr-OCCASIONAL Tear Dr-1+
___ 06:05AM BLOOD ___ PTT-30.1 ___
___ 06:05AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:05AM BLOOD Glucose-129* UreaN-16 Creat-1.1 Na-137 
K-3.2* Cl-94* HCO3-27 AnGap-19
___ 06:05AM BLOOD CK(CPK)-776*
___ 06:05AM BLOOD CK-MB-52* MB Indx-6.7*
___ 06:07AM BLOOD Lactate-1.5

___ 06:05AM BLOOD cTropnT-1.52*
___ 11:55AM BLOOD cTropnT-1.03*
___ 07:00AM BLOOD CK-MB-11* cTropnT-1.09*

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-7.9 RBC-4.80 Hgb-15.1 Hct-43.7 MCV-91 
MCH-31.5 MCHC-34.6 RDW-13.2 RDWSD-43.7 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-29.9 ___
___ 07:00AM BLOOD Glucose-80 UreaN-15 Creat-1.0 Na-137 
K-4.0 Cl-96 HCO3-25 AnGap-20
___ 07:00AM BLOOD CK-MB-11* cTropnT-1.09*
___ 07:00AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.5

Diagnostics:
Coronary Catheterization Report ___
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of angiographic disease.
* Left Anterior Descending
The LAD is free of angiographic disease.
* Circumflex
The Circumflex is free of angiographic disease.
* Right Coronary Artery
The RCA is free of angiographic disease.

Echo Cardiography ___
Conclusions
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Regional left ventricular wall motion is normal. 
Transmitral and tissue Doppler imaging suggests normal diastolic 
function, and a normal left ventricular filling pressure 
(PCWP<12mmHg). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
right ventricular free wall is hypertrophied. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Trivial pericardial effusion. Normal biventricular 
cavity size and systolic function. 

 
Brief Hospital Course:
___ M w/ hx of HTN, HLD, and prediabetes presented initially to 
___ for 3 days of substernal chest pain following 3 
days of preceding pharyngitis. 

# CORONARIES: no visualized angiographic disease
# PUMP: no overt signs of congestive heart failure, TTE 
demonstrating normal EF/other findings
# RHYTHM: sinus rhythm.
# Myopericarditis:
Patient had presented previously to ___ and was 
thought to have a possible bacterial pharyngitis, and was 
subsequently prescribed penillin V (cultures subsequently 
returned negative). Patient described worsening substernal pain 
he developed in the ensuing days, ultimately prompting 
presentation to ___ where EKG demonstrated sub-___levations with PR depressions in leads 1, AVL, with possible 
ST depression in III. Troponin I drawn at ___ was reportedly 
> 10, prompting transfer to ___ for urgent cardiac 
catheterization for rule out STEMI. His chest pain had resolved 
upon presentation to ___, with troponins and CK-MB 
downtrending. He received a cardiac catheterization which did 
not demonstrate any significant stenosis or foci of 
atherosclerotic disease. He was subsequently initiated on 
treatment for myopericarditis, with ibuprofen 800 mg tid and 
colchicine 0.6 mg BID. Recommended patient continue omeprazole 
20 mg while on NSAID course, and pt was advised to avoid alcohol

He received an echocardiogram prior to discharge which 
demonstrated a normal ejection fraction, but no significant 
abnormalities to suggest acute decompensation from myocardial 
involvement of his viral inflammation. He was discharged with 
follow-up scheduled both in primary care and cardiology at 
___.

# Pharyngitis: Patient presented with a history of pharyngitis, 
unclear if bacterial or viral in etiology. He had obtained 
throat cultures at ___ that returned 
negative for streptococcus. Given the above history of 
myopericarditis there was concern for possible cocksackie/other 
viral source of his symptoms. He was discharged off of his 
penicillin because of the negative cultures.

Chronic Problems:
HTN / CAD risk: continued aspirin, atorvastatin, amlodipine, and 
hydrochlorothiazide. 
Allergies: continued loratidine, flovent
Chronic cough: continued benzonatate, guaifeniscen, asthma 
medications prn.

Transitional Issues:
-patient was discharged on regimen of ibuprofen 800 mg tid with 
colchicine 0.6 mg bid, which he was recommended to continue 
until seeing his outpatient cardiologist. Recommend 2 week 
duration for ibuprofen and 3 months for colchicine. 
-patient's CHA pharyngeal swab returned negative culture for 
strep throat, so previously prescribed penicillin V was 
discontinued
-patient's troponin and CK-MB at time of discharge were 1.09 and 
11*, respectively. 
-ECHO showed trivial pericardial effusion. Normal biventricular 
cavity size and systolic function
# CODE: Full
# CONTACT: HCP: wife ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Guaifenesin-CODEINE Phosphate ___ mL PO Q8H:PRN cough 
2. Penicillin V Potassium 500 mg PO Q8H 
3. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
4. Benzonatate 100 mg PO TID:PRN cough 
5. Omeprazole 20 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. amLODIPine 10 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Loratadine 10 mg PO DAILY 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
please continue this twice a day until you see your cardiologist 

RX *colchicine 0.6 mg 1 capsule(s) by mouth twice a day Disp 
#*28 Capsule Refills:*1 
2.  Ibuprofen 800 mg PO Q8H 
please continue taking this at every dose until you follow-up 
with your cardiologist 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every 8 hours Disp 
#*52 Tablet Refills:*1 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Benzonatate 100 mg PO TID:PRN cough  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Guaifenesin-CODEINE Phosphate ___ mL PO Q8H:PRN cough  
10.  Hydrochlorothiazide 25 mg PO DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Myopericarditis

SECONDARY DIAGNOSIS:
Viral pharyngitis
Hypertension
Hyperlipidemia
Prediabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were evaluated in the emergency room at ___ for chest 
pain after an episode of sore throat and were found to have 
changes in you EKG and elevations of a blood protein called 
troponin that were worrisome enough for heart attack. You were 
referred to ___ for an urgent cardiac 
catheterization. This was performed and demonstrated that you 
had no significant blockages within your coronary arteries and 
thus NO evidence of heart attack. 

Upon further review of your electrocardiogram and your history 
of viral illness it seemed most likely that you were suffering 
from a temporarily viral infection called myopericarditis, which 
refers to inflammation around the inside and outside of the 
heart that is linked to a viral process (we confirmed with CHA 
records that you did not have strep throat). We performed an 
ultrasound test to determine whether the viral inflammation was 
causing any compromise of your heart function, and the test 
showed that your heart is still working well.

The best treatment for this condition is to treat the 
inflammation with anti-inflammatory medications called ibuprofen 
and colchicine. We would like you to follow-up with a 
cardiologist Dr. ___ you leave the hospital to 
assist you with determination of when you should start 
decreasing the dose of these anti-inflammatory drugs. Until 
then, please take the medications as prescribed.

It was a pleasure to be involved with your care at ___.

Your ___ team
 
Followup Instructions:
___